US08633186B2
2-(neopentyloxy)-6-nitrobenzonitrile
Prepared as in Example 215c from 2,2-dimethylpropan-1-ol and 2,6-dinitrobenzonitrile in 80% yield. MS 235 (MH+).

reactant | 2,2-dimethylpropan-1-ol | CC(CO)(C)C | C5H12O
reactant | 2,6-dinitrobenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
product | 2-(neopentyloxy)-6-nitrobenzonitrile | 80% yield | C(C(C)(C)C)OC1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C12H14N2O3
